US06353017B1
B. [1-(2-Benzyloxy-1-carbamoyl-ethylcarbamoyl)-3-methyl-butyl]-carbamic acid benzyl ester
To a solution of 0.980 g of 3-benzyloxy-2-(2-benzyloxycarbonylamino-4-methyl-pentanoylamino)-propionic acid and 0.25 ml of N-methylmorpholine in 12 ml of tetrahydrofuran 0.3 ml of isobutylchloroformate is added dropwise at −15° C. The reaction mixture is stirred at −15° C. for 10 minutes, then 4 ml of aqueous NH3 (25%) is added dropwise over a time period of 5 minutes. The reaction mixture is stirred for additional 15 minutes and diluted with ethyl acetate. Ethyl acetate is washed once with saturated NH4Cl-solution and once with H2O, then dried sodium sulfate, the solvent is removed und the residue is triturated with diethylether.

reactant | 3-benzyloxy-2-(2-benzyloxycarbonylamino-4-methyl-pentanoylamino)-propionic acid | 0.980 g | C(C1=CC=CC=C1)OCC(C(=O)O)NC(C(CC(C)C)NC(=O)OCC1=CC=CC=C1)=O | C24H30N2O6
reactant | N-methylmorpholine | 0.25 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NH3 | 4 ml | N | H3N
reactant | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1-(2-Benzyloxy-1-carbamoyl-ethylcarbamoyl)-3-methyl-butyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(CC(C)C)C(NC(COCC1=CC=CC=C1)C(N)=O)=O)=O | C24H31N3O5
